US09388149B2
4.27 ml (0.08 mol; 1.20 V) of sulfuric acid diluted in 4.3 ml of water were added dropwise to 3.56 g of 2-tert-butyl-6-chloro-7-(4-methylpiperazine-1-sulfonyl)benzooxazole (0.01 mol; 1.0 eq) in solution in 15 ml of 1,4-dioxane. The reaction medium was refluxed for six and a half hours. The reaction medium was concentrated and 1 N sodium hydroxide was added (to pH 7). The solution was extracted with dichloromethane. The organic phases were combined, dried over magnesium sulfate, filtered and evaporated. The residue obtained was chromatographed on silica gel, eluent 95/5 ethyl acetate/dichloromethane. 2.0 g of 6-amino-3-chloro-2-(4-methylpiperazine- 1-sulfonyl)phenol were obtained in the form of a thick brown oil. Yield=68%.

reactant | sulfuric acid | 0.08 mol, 4.27 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2-tert-butyl-6-chloro-7-(4-methylpiperazine-1-sulfonyl)benzooxazole | 0.01 mol, 3.56 g, 1.0 eq | C(C)(C)(C)C=1OC2=C(N1)C=CC(=C2S(=O)(=O)N2CCN(CC2)C)Cl | C16H22ClN3O3S
solvent | water | 4.3 ml | O | H2O
solvent | 1,4-dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 6-amino-3-chloro-2-(4-methylpiperazine- 1-sulfonyl)phenol | 2.0 g, Yield=68% | NC1=CC=C(C(=C1O)S(=O)(=O)N1CCN(CC1)C)Cl | C11H16ClN3O3S
